US07109234B2
Stage 2: 3-(R)-tert-Butoxycarbonylamino-3,4-dihydro-2H-1,5-benzoxathiepine (Xa-1)
[lacuna] (0.205 mol) of 2-tert-butoxycarbonyl-amino-3-(2-hydroxyphenylthio)propan-1-ol (IXa-1), 300 ml of distilled tetrahydrofuran and 53.80 g (0.205 mol) of triphenylphosphine are introduced into a round-bottomed flask kept under an inert atmosphere. The mixture is cooled to 0° C. and then 31.9 ml (0.205 mol) of diethyl azodicarboxylate are added dropwise. The mixture is stirred at ambient temperature for 24 hours. The tetrahydrofuran is evaporated under reduced pressure and then the residue is taken up in ethyl ether. The precipitate formed is removed by filtration and the filtrate is concentrated under reduced pressure. The residue is purified by flash chromatography on silica gel (eluent: dichloromethane/cyclohexane=80:20). 48 g (0.170 mol) of the title compound (Xa-1) are recovered in the form of a pinkish oil.

reactant | 2-tert-butoxycarbonyl-amino-3-(2-hydroxyphenylthio)propan-1-ol | 0.205 mol | C(C)(C)(C)OC(=O)C(C(O)N)CSC1=C(C=CC=C1)O | C14H21NO4S
reactant | triphenylphosphine | 0.205 mol, 53.80 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.205 mol, 31.9 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 3-(R)-tert-Butoxycarbonylamino-3,4-dihydro-2H-1,5-benzoxathiepine | 0.170 mol, 48 g, Yield: 83% | C(C)(C)(C)OC(=O)N[C@@H]1COC2=C(SC1)C=CC=C2 | C14H19NO3S
